US07282501B2
Step B: 3-(4-[2-(2-Biphenyl-4-yl-5-methyl-oxazol-4-yl)-ethoxy]-2-[(ethyl-isopropoxycarbonyl-amino)-methyl]-phenyl)-propionic acid
A solution of 3-[4-[2-(2-biphenyl-4-yl-5-methyl-oxazol-4-yl)-ethoxy]-2-(isopropoxycarbonylamino-methyl)-phenyl]-propionic acid methyl ester (200 mg, 0.36 mmol) in DMF (15 mL) was treated with sodium bis(trimethylsilyl)amide (132 mg, 0.719 mmol). Ethyl iodide (112 mg, 0.719 mmol) was added, and the reaction mixture was stirred overnight at room temperature under N2. The mixture was diluted with EtOAc (100 mL) and washed with brine (100 mL), then water (100 mL). The organic layer was dried (MgSO4) and concentrated to the penultimate ester as white solid (179 mg). The material was dissolved in EtOH (20 mL), treated with 5N NaOH (20 mL), and stirred at room temperature overnight. The mixture was acidified with 1N HCl (10 mL) and extracted with EtOAc (50 mL). The organics were dried (MgSO4) and concentrated to give a white solid (201 mg). MS [EI+] m/z 571 (M+H)+. Anal. Calculated for C34H38N2O6: C, 71.6; H, 6.7; N, 4.9. Found: C, 70.8; H, 6.8; N, 5.0.

reactant | 3-[4-[2-(2-biphenyl-4-yl-5-methyl-oxazol-4-yl)-ethoxy]-2-(isopropoxycarbonylamino-methyl)-phenyl]-propionic acid methyl ester | 0.36 mmol, 200 mg | COC(CCC1=C(C=C(C=C1)OCCC=1N=C(OC1C)C1=CC=C(C=C1)C1=CC=CC=C1)CNC(=O)OC(C)C)=O | C33H36N2O6
reactant | sodium bis(trimethylsilyl)amide | 0.719 mmol, 132 mg | C[Si](C)(C)[N-][Si](C)(C)C.[Na+]
reactant | Ethyl iodide | 0.719 mmol, 112 mg | C(C)I | C2H5I
solvent | DMF | 15 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | 100 mL | CCOC(=O)C | C4H8O2
product | 3-(4-[2-(2-Biphenyl-4-yl-5-methyl-oxazol-4-yl)-ethoxy]-2-[(ethyl-isopropoxycarbonyl-amino)-methyl]-phenyl)-propionic acid | 201 mg | C1(=CC=C(C=C1)C=1OC(=C(N1)CCOC1=CC(=C(C=C1)CCC(=O)O)CN(C(=O)OC(C)C)CC)C)C1=CC=CC=C1 | C34H38N2O6
